US05006159
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(3-(methylsulfonyl)phenoxy)phenyl)cyclohex-2-en-1-one
A solution of 3.5 g (8.5 mmol) of 2-propionyl-3-hydroxy-5-(3-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one in 10 mL of methylene chloride and 20 mL of absolute ethanol was treated with 1.0 g (1.0 mmol) of ethoxyamine hydrochloride and 0.9 g (1.0 mmol) of anhydrous sodium acetate. After stirring for 24 hours, the mixture was poured into 100 mL of water and extracted thrice with 20 mL portions of methylene chloride. The combined extracts were dried over MgSO4, filtered and passed through a short column of silica gel, eluting with about 200 mL of methylene chloride. Evaporation of the eluent afforded the above named product as a light yellow oil. The product was recovered in a yield of 3.0 g (77 percent of theoretical). 1H NMR (CDCl3) δ1.08-1.49 (m, 6H, both --CH2CH3 's), 2.60-3.65 (m includes s at 3.05 for CH3SO2 --, 10H), 4.12 (q, J=7Hz, 2H, --OCH2), 6.85-7.85 (m, 8H, aromatics), 14.9 (broad s, 1H, enol H) (Compound 1).

reactant | 2-propionyl-3-hydroxy-5-(3-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one | 8.5 mmol, 3.5 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=CC(=CC=C1)S(=O)(=O)C)=O | C22H22O6S
reactant | ethoxyamine hydrochloride | 1.0 mmol, 1.0 g | Cl.C(C)ON
reactant | sodium acetate | 1.0 mmol, 0.9 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(3-(3-(methylsulfonyl)phenoxy)phenyl)cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC(=CC=C1)OC1=CC(=CC=C1)S(=O)(=O)C)=O | C24H27NO6S
